datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([C:6]([C:7]([C:8]([H:19])([H:20])[H:21])[C:9]([H:22])([H:23])[H:24])([H:17])[H:18])([H:15])[H:16])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[C:6]([H:17])([H:18])[C:7]1([C:8]([H:19])([H:20])[H:21])[C:9]([H:22])([H:23])[H:24])[H:10],70.4586
[C:0](=[N:1][N:2]([H:5])[H:6])([H:3])[H:4].[O:7]>>[C:0](=[N:1][N:2][H:6])([H:3])[H:4].[H:5][O:7],40.0953
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:21])([H:22])[H:23])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9].[O:24]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:22])[H:23])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9].[H:21][O:24],11.572944
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6](=[C:7]([H:15])[H:16])[H:14])[H:13])([H:11])[H:12])[H:10])[H:9])[H:8]>>[C:0](#[C:1][C:2]([C:3]1([H:10])[C:4]([H:11])([H:12])[C:5]1([C:6](=[C:7]([H:15])[H:16])[H:14])[H:13])[H:9])[H:8],57.781
[C:0]([C:1](=[C:2]([H:7])[H:8])[C:3]([C:4]([H:11])([H:12])[H:13])([H:9])[H:10])([H:5])[H:6]>>[C:0]([C:1](=[C:2]([H:7])[H:8])[C:3]([C:4]([H:11])([H:12])[H:13])[H:10])([H:5])([H:6])[H:9],205.853
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:17])([H:15])[H:16])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([H:10])[H:11])([H:7])([H:8])[H:9].[C:2](=[C:3]([C:4]([O:5][O:6][H:17])([H:15])[H:16])[H:14])([H:12])[H:13],117.9888
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[O:3][H:9])([H:4])[H:5].[C:10]([H:11])([H:12])[H:13]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:4])[H:5].[O:3]([H:9])[C:10]([H:11])([H:12])[H:13],201.206
[C:0]([C:1](=[C:2]([H:7])[H:8])[O:3][O:4])([H:5])[H:6]>>[C:0]1([H:5])([H:6])[C:1](=[C:2]([H:7])[H:8])[O:3]1.[O:4],133.47
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([C:18]([C:19]([C:20]([H:27])([H:28])[H:29])[C:21]([H:30])([H:31])[H:32])([H:25])[H:26])([H:22])([H:23])[H:24]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])[H:9])([H:5])([H:6])[H:7].[H:8][C:19]([C:18]([C:17]([H:22])([H:23])[H:24])([H:25])[H:26])([C:20]([H:27])([H:28])[H:29])[C:21]([H:30])([H:31])[H:32],43.5136
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5]([H:15])([H:16])[H:17])[C:6](=[C:7]([H:19])[H:20])[H:18])([H:10])[H:11])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]([C:3]([H:12])([H:13])[H:14])[C:4]1([C:5]([H:15])([H:16])[H:17])[C:6](=[C:7]([H:19])[H:20])[H:18],148.616
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[O:26][H:27]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[H:15][O:26][H:27],-5.652584
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:16])([H:14])[H:15])([O:6][O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:16])([H:14])[H:15])([O:6][O:7][H:11])[H:13])[H:12])([H:8])([H:9])[H:10],123.428
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8].[O:20][H:21]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8].[H:11][O:20][H:21],-5.568904
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[S:11]=[C:12]([C:13]([S:14][H:17])[H:16])[H:15]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][C:13]([C:12](=[S:11])[H:15])([S:14][H:17])[H:16],117.738
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[C:7](=[C:8]([S:9][H:13])[H:12])([H:10])[H:11]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:12])[H:4].[C:7](=[C:8][S:9][H:13])([H:10])[H:11],29.288
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9]([C:10]([C:11]([H:17])([H:18])[H:19])([C:12]([H:20])([H:21])[H:22])[H:16])([H:13])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:16])[H:4].[C:9]([C:10]([C:11]([H:17])([H:18])[H:19])[C:12]([H:20])([H:21])[H:22])([H:13])([H:14])[H:15],51.5887
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[H:9])([H:7])[H:8].[C:19]([C:20]([H:23])([H:24])[H:25])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[C:19]([C:20]([H:23])([H:24])[H:25])([H:21])[H:22])[H:9])([H:7])[H:8],16.485
[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[O:21][H:22]>>[C:0]([C:1]1([H:10])[C:2]([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[H:11][O:21][H:22],-6.188136
